US06316485B1
To acetic anhydride (20 ml) was added 70% nitric acid (2 ml) dropwise in an ice-bath. During the addition, the internal temperature of the mixture temporarily rose to 25° C. and dropped to 0° C. To the mixture was added 1-(4-methoxyphenyl)-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole (2.0 g) portionwise. The reaction mixture was allowed to stir for 5 hours and poured into ice-water. The precipitate formed was collected by filtration and dried to give 1-(4-methoxy-3-nitrophenyl)-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole (2.15 g).

reactant | nitric acid | 2 ml | [N+](=O)(O)[O-] | HNO3
reactant | 1-(4-methoxyphenyl)-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole | 2.0 g | COC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C18H15F3N2O3S
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(4-methoxy-3-nitrophenyl)-5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)pyrazole | 2.15 g | COC1=C(C=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F)[N+](=O)[O-] | C18H14F3N3O5S
